US06423689B1
(S)-[2-(4-iodophenyl)-1-tert-butylcarbamoyl-ethyl]-carbamic acid tert-butyl ester
A reaction mixture of BOC-L-4-iodophenylalanine (10 g, 25.6 mmol), tert-butylamine (2.19 g, 30 mmol), DMF (25 mL), HBTU (9.7 g, 25.6 mmol), and diisopropylethylamine (6.6 g, 51 mmol) was stirred for 2 hours. The mixture was diluted with 40 mL of diethylether, washed with 1N HCl (2×25 mL), saturated NaHCO3 (2×25 mL), and saturated solution of brine (2×25 mL). The organic layer was separated, dried with Na2SO4, and evaporated to dryness. The crude was purified by column chromatography (silica gel, 25% EtOAc/hexanes) to yield the title compound (10.2 g).

reactant | BOC-L-4-iodophenylalanine | 25.6 mmol, 10 g | CC(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)I)C(=O)O | C14H18INO4
reactant | tert-butylamine | 30 mmol, 2.19 g | C(C)(C)(C)N | C4H11N
reactant | HBTU | 25.6 mmol, 9.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 51 mmol, 6.6 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | diethylether | 40 mL | C(C)OCC | C4H10O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | (S)-[2-(4-iodophenyl)-1-tert-butylcarbamoyl-ethyl]-carbamic acid tert-butyl ester | 10.2 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)I)C(NC(C)(C)C)=O)=O | C18H27IN2O3
